US06051712
A solution of 470 mg (0.863 mmol) of 2-trimethylsilylethyl (3RS,4RS)-4-(3-bromophenyl)-3-(2-trimethylsilyl-ethoxy-carbonyloxy)-piperidine-1-carboxylate in 3 ml of absolute tetrahydrofuran was treated with 2.65 ml (2.91 mmol) of tetrabutylammonium fluoride solution (1.1 M in THF) and stirred at room temperature for 2.5 hours. Subsequently, the mixture was partitioned between methylene chloride and saturated sodium carbonate solution, the organic phase was dried over magnesium sulphate and finally the solvent was removed under reduced pressure. The crude product (440 mg) was purified by chromatography on silica gel with a 6.5:1:0.1 mixture of methylene chloride, MeOH and 25% ammonia as the eluent. There were obtained 180 mg (81% of theory) of (3RS,4RS)-4-(3-bromophenyl)-piperidin-3-ol as a light yellow oil. MS: 255, 257 (M)+.

reactant | 2-trimethylsilylethyl (3RS,4RS)-4-(3-bromophenyl)-3-(2-trimethylsilyl-ethoxy-carbonyloxy)-piperidine-1-carboxylate | 0.863 mmol, 470 mg | BrC=1C=C(C=CC1)C1C(CN(CC1)C(=O)OCC[Si](C)(C)C)OC(=O)OCC[Si](C)(C)C | C23H38BrNO5Si2
reactant | tetrabutylammonium fluoride | 2.91 mmol, 1.1 M, 2.65 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (3RS,4RS)-4-(3-bromophenyl)-piperidin-3-ol | 180 mg, 81% | BrC=1C=C(C=CC1)C1C(CNCC1)O | C11H14BrNO
